US04045438
To a solution of 1.8 of 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid hydrochloride in 25 ml of dimethyl formamide is added 0.78 g of p-pivalyloxybenzyl alcohol followed by cooling to 0° C after which 3.7 mole of dicyclohexylcarbodiimide in 7.5 ml of dimethyl formamide is added dropwise with stirring. The reaction mixture is stirred for 1 hour at 0° C. and for an additional 4 hours at room temperature. The formed dicyclohexylurea is removed by filtration. The filtrate is diluted with chloroform and washed with water. The organic layer is then dried over magnesium sulfate filtered and evaporated in vacuo to give an oil which is triturated with ether to give 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid p-pivalyloxybenzyl ester.

reactant | 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid hydrochloride | Cl.C(C)(=O)OCC1=C(N2C(C(C2SC1)NC(CC1=CC=C(C=C1)CN=[N+]=[N-])=O)=O)C(=O)O
reactant | p-pivalyloxybenzyl alcohol | 0.78 g | C(C(C)(C)C)(=O)OC1=CC=C(CO)C=C1 | C12H16O3
reactant | dicyclohexylcarbodiimide | 3.7 mole | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethyl formamide | 25 ml | CN(C=O)C | C3H7NO
solvent | dimethyl formamide | 7.5 ml | CN(C=O)C | C3H7NO
product | 3-[(acetyloxy)methyl]-7-[[2-[4-(azidomethyl)phenyl]acetyl]amino]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid p-pivalyloxybenzyl ester | C(C(C)(C)C)(=O)OC1=CC=C(COC(=O)C=2N3C(C(C3SCC2COC(C)=O)NC(CC2=CC=C(C=C2)CN=[N+]=[N-])=O)=O)C=C1 | C31H33N5O8S
